* Qucs 1.1.0 C:/Projects/rlc2ss/qucs/converter.sch
.INCLUDE "C:/Programs/qucs_s_win64/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
* Qucs 1.1.0  C:/Projects/rlc2ss/qucs/converter.sch
R_p_p 0 N_dc_p  1E3
R_n_p N_dc_n 0  1E3
V_dc _net0 N_dc_n DC 1
L_b _net1 _net2  1M 
L_a _net3 _net4  1M 
L_c _net5 _net6  1M 
C_p 0 _net7  10E-3;I; 
C_n _net8 0  10E-3;I; 
R_n_s N_dc_n _net8  10E-3
R_p_s _net7 N_dc_p  10E-3
R_a N_c_a _net3  10E-3
R_b N_c_b _net1  10E-3
R_c N_c_c _net5  10E-3
R_dc _net0 N_dc_p  1;I;
V_a _net9 _net10 DC 0 SIN(0 1 1K 0 0 0) AC 1 ACPHASE 0
V_c _net11 _net10 DC 0 SIN(0 1 1K 0 0 0) AC 1 ACPHASE 0
V_b _net12 _net10 DC 0 SIN(0 1 1K 0 0 0) AC 1 ACPHASE 0
L_g_b _net13 _net12  1M 
L_g_a _net14 _net9  1M 
L_g_c _net15 _net11  1M 
R_g_a _net4 _net14  10E-3
R_g_b _net2 _net13  10E-3
R_g_c _net6 _net15  10E-3
C_a _net16 _net4  10E-3;I; 
C_b _net16 _net2  10E-3;I; 
C_c _net16 _net6  10E-3;I; 
D_a_n N_dc_n  N_c_a 
D_a_p N_c_a  N_dc_p 
D_b_p N_c_b  N_dc_p 
D_c_p N_c_c  N_dc_p 
D_c_n N_dc_n  N_c_c 
D_b_n N_dc_n  N_c_b 
.control
set filetype=ascii
op
print all > spice4qucs.cir.dc_op
destroy all
quit
.endc
.end
